US04704456
The tetrabutylammonium salt of sulbactam (53 g of an oil) was prepared from sulbactam sodium salt (20.0 g, 0.078 mol) and tetrabutylammonium hydrogen sulfate (33.2 g) according to the method of Example 1. The entire 53 g batch was taken into 1280 ml of chlorobromomethane containing 1.70 ml (0.0098 mol) of diisopropylethylamine. After 5 hours, the reaction mixture was extracted with 3×100 ml of water. By optical rotation assay, the first, second and third extracts contained 5.7%, 1.1% and 0.3% of recovered sulbactam. The organic layer was stripped to a volume of 300 ml, and the BrCH2Cl displaced with 2×500 ml of ethyl acetate to a final volume of 275 ml, diluted with 100 ml fresh ethyl acetate, extracted 1×275 ml H2O, 1×275 ml saturated Na2SO4, 1×275 H2O and 1×275 ml brine, dried over 20 g MgSO 4, stirred with 4 g of activated carbon for 30 minutes, and filtered over diatomaceous earth with 100 ml of ethyl acetate wash. The filtrate and wash liquor were combined, stripped to 100 ml, cooled to 0°-5° C., diluted dropwise with 90 ml of hexane, maintaining 0°-5° C. (leading to an oil), warmed back to ambient temperature (causing the oil to form crystals), diluted dropwise over 1.5 hours with 150 ml of additional hexane, cooled and granulated at 0°-5° C. for 1 hour, and title product recovered in two crops (the second following evaporation of the mother liquor and trituration with hexane), 13.8 g and 4.7 g, both melting at 89°-95° C., a yield of 84% uncorrected, a yield of 80% corrected for purity by hplc.

reactant | sulbactam sodium salt | 0.078 mol, 20.0 g | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)[O-])C.[Na+]
reactant | chlorobromomethane | 0.0098 mol, 1280 ml | ClCBr | CH2BrCl
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | tetrabutylammonium hydrogen sulfate | 33.2 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | sulbactam | yield of 84% | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
